US04315014
A mixture of 81 g (0.5 mol) of 3-hydroxy-1-propanesulfonic acid sodium salt and 250 ml of acetic anhydride is heated on the steam bath for 64 hrs and at reflux for 2 hrs. The dark solution is cooled and the solid is filtered, washed with ether and dried to give 82.8 g of 3-acetyloxy-1-propanesulfonic acid sodium salt.

reactant | 3-hydroxy-1-propanesulfonic acid sodium salt | 0.5 mol, 81 g | [Na+].OCCCS(=O)(=O)[O-]
reactant | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetyloxy-1-propanesulfonic acid sodium salt | 82.8 g | [Na+].C(C)(=O)OCCCS(=O)(=O)[O-] | InChI=1S/C5H10O5S.Na/c1-5(6)10-3-2-4-11(7,8)9;/h2-4H2,1H3,(H,7,8,9);/q;+1/p-1
